US09340527B2
To a solution ethyl 1-((6-hydroxynaphthalen-2-yl)methyl)piperidine-4-carboxylate (1 g, 3.19 mmol) and TEA (0.64 g, 6.38 mmol, 2 eq) in DCM (20 mL) was added Tf2O (1.8 g, 6.38 mmol, 2 eq) dropwise at 0° C. The mixture was stirred at room temperature for 12 h. The reaction was quenched with water at 0° C., washed with sat.NaHCO3 (10 mL) and brine (5 mL*3). The organic layer was dried over Na2SO4 and concentrated to afford ethyl 1-((6-(trifluoromethylsulfonyloxy)naphthalen-2-yl)methyl)piperidine-4-carboxylate as a brown solid (350 mg, yield: 90%). ESI-MS: 446.1 (M+H)+. 1HNMR (400 MHz, CDCl3) δ: 7.88 (d, J=9.2 Hz, 1H), 7.84-7.82 (m, 2H), 7.79 (s, 1H), 7.60 (d, J=7.6 Hz, 1H), 7.35 (d, J=9.2 Hz, 1H), 4.13 (q, J=7.6 Hz, 2H), 3.66 (s, 2H), 2.89-2.86 (m, 2H), 2.32-2.28 (m, 1H), 2.11-2.07 (m, 2H), 1.88-1.78 (m, 4H), 1.26 (t, J=7.6 Hz, 3H).

reactant | ethyl 1-((6-hydroxynaphthalen-2-yl)methyl)piperidine-4-carboxylate | 3.19 mmol, 1 g | OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)C(=O)OCC | C19H23NO3
reactant | Tf2O | 6.38 mmol, 1.8 g, 2 eq | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | ethyl 1-((6-(trifluoromethylsulfonyloxy)naphthalen-2-yl)methyl)piperidine-4-carboxylate | 350 mg, yield: 90% | FC(S(=O)(=O)OC=1C=C2C=CC(=CC2=CC1)CN1CCC(CC1)C(=O)OCC)(F)F | C20H22F3NO5S
